US08377895B2
Preparation of 5,6,7-trihydroxy-8-((3-hydroxypyrrolidin-1-yl)methyl)-2-phenyl-4H-chromen-4-one [Hydroxylpyrrolidine Baicalein]
The mixture of Baicalein (27 g), methanol (350 ml), 37% formaldehyde solution (8.04 ml), 3-hydroxyl-pyrrolidine (8.8 g) was stirred under for 4 hours at 50° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as yellow solid 36.0 g of purity 99.0%. MS: (API-ES) m/z 370.1[M+H]+, 739.2 [2M+H]+, 761.2[2M+Na]+; 1H NMR (DMSO-d6, 400 MHz): δ 8.05˜8.07 (m, 2H, Ar-2′,6′-H), 7.58˜7.59 (m, 3H, Ar-3′,4′,5′-H), 6.87 (s, 1H, 3-H), 4.17 (s, 2H, CH2), 3.32 (m, 1H, CH), 2.28, 2.53 (m, 2H, CH2), 2.20, 2.30 (m, 2H, CH2), 1.81, 1.62 (m, 2H, CH2).

reactant | Baicalein | 27 g | C=1C=CC(=CC1)C2=CC(=O)C=3C(=CC(=C(C3O)O)O)O2 | C15H10O5
reactant | formaldehyde | 8.04 ml | C=O | CH2O
reactant | 3-hydroxyl-pyrrolidine | 8.8 g | OC1CNCC1 | C4H9NO
solvent | methanol | 350 ml | CO | CH4O
product | 5,6,7-trihydroxy-8-((3-hydroxypyrrolidin-1-yl)methyl)-2-phenyl-4H-chromen-4-one | 36.0 g | OC1=C2C(C=C(OC2=C(C(=C1O)O)CN1CC(CC1)O)C1=CC=CC=C1)=O | C20H19NO6
